US04960766
To a solution of trifluoroacetic acid salt of 7β-[2-(2-formamidothiazol-4-yl)-2-methoxyiminoacetamido]-3-(2,4-dimethyl-3-formamido-1-pyrazolio)methyl-3- cephem-4-carboxylate (syn isomer) (3 g) in methanol (15 ml) was added concentrated hydrochloric acid (1.57 ml) at ambient temperature. After being stirred at the same temperature for 4 hours, the reaction mixture was added dropwise to diethyl ether, and the resulting precipitate was collected by filtration. The precipitate was dissolved in water, and the solution was adjusted to pH 2 with aqueous 5% sodium bicarbonate solution and subjected to column chromatography on macroporous non-ionic adsorption resin "Diaion HP-20". The desired compound was eluted with aqueous 5% isopropyl alcohol solution. The objective fractions were collected and the isopropyl alcohol was evaporated. The resulting aqueous solution was lyophilized to give 7β-[2-(2-aminothiazol-4-yl)-2-methoxyiminoacetamido]-3-(3-amino-2,4-dimethyl-1-pyrazolio)methyl-3-cephem-4-carboxylate (syn isomer) (763.5 mg).

reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | 7β-[2-(2-formamidothiazol-4-yl)-2-methoxyiminoacetamido]-3-(2,4-dimethyl-3-formamido-1-pyrazolio)methyl-3- cephem-4-carboxylate | 3 g | C(=O)NC=1SC=C(N1)C(C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)C[N+]=2N(C(=C(C2)C)NC=O)C)C(=O)[O-])C1=O)=NOC | C21H22N8O7S2
reactant | hydrochloric acid | 1.57 ml | Cl | ClH
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | methanol | 15 ml | CO | CH4O
product | 7β-[2-(2-aminothiazol-4-yl)-2-methoxyiminoacetamido]-3-(3-amino-2,4-dimethyl-1-pyrazolio)methyl-3-cephem-4-carboxylate | 763.5 mg | NC=1SC=C(N1)C(C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)C[N+]=2N(C(=C(C2)C)N)C)C(=O)[O-])C1=O)=NOC | C19H22N8O5S2
